US09216980B2
6-[4-(1-Ethyl-piperidin-4-yloxy)-pyridin-3-yl]-3-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
Sodium hydride (60% dispersion in mineral oil, 0.133 g, 3.32 mmol) was added to a solution of 1-ethyl-piperidin-4-ol (0.306 g, 2.37 mmol) in DMF (5 mL) and the reaction mixture was stirred at ambient temperature for 45 minutes. 6-(4-Chloro-pyridin-3-yl)-3-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (0.121 g, 0.474 mmol) was added and the reaction mixture was heated at 80° C. for 5 h. The material was partitioned between water and ethyl acetate. The solid suspended in the aqueous layer was removed by filtration then the aqueous layer was separated, adsorbed onto HM-N and purified by flash chromatography (silica, 12 g column, ISCO, 0-10% (2N ammonia in methanol) in DCM). The resultant residue was triturated with ethyl acetate and cyclohexane to afford the title compound as a yellow solid (28 mg, 13%). 1H NMR (MeOD, 400 MHz): 8.97 (d, J=1.1 Hz, 1H), 8.83-8.80 (m, 2H), 8.73 (s, 1H), 8.60 (d, J=1.1 Hz, 1H); 8.43 (d, J=5.9 Hz, 1H), 8.11 (s, 1H), 7.97 (d, J=0.8 Hz, 1H), 7.28 (d, J=6.0 Hz, 1H), 3.98 (s, 3H), 2.65-2.54 (m, 2H), 2.53-2.43 (m, 2H), 2.39 (q, J=7.3 Hz, 2H), 2.13-2.03 (m, 2H), 1.97-1.86 (m, 2H), 1.02 (t, J=7.2 Hz, 3H). LCMS (Method A): RT=4.0 min, M+H+=454.

reactant | Sodium hydride | 3.32 mmol, 0.133 g | [H-].[Na+]
reactant | 1-ethyl-piperidin-4-ol | 2.37 mmol, 0.306 g | C(C)N1CCC(CC1)O | C7H15NO
reactant | 6-(4-Chloro-pyridin-3-yl)-3-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 0.474 mmol, 0.121 g | ClC1=C(C=NC=C1)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C=3C=NN(C3)C | C19H13ClN6
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-[4-(1-Ethyl-piperidin-4-yloxy)-pyridin-3-yl]-3-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 28 mg, 13% | C(C)N1CCC(CC1)OC1=C(C=NC=C1)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C=3C=NN(C3)C | C26H27N7O
